US07566803B2
C. [4-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-benzyloxy]-acetic acid methyl ester
To a solution of enantiomer 1 of [4-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-phenyl]-methanol, (2.10 g, 4.10 mmol) and PhCH3 (10 mL) is added methyl glycolate (6.5 mL, 81.89 mmol) and MeReO3 (0.02 g, 0.082 mmol). The solution is heated at a reflux for 2 hours with the use of a Dean-Stark trap. The solution is concentrated and chromatographed to give the title compound (0.96 g, 1.64 nmol, 40%).

reactant | [4-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-phenyl]-methanol | 4.10 mmol, 2.10 g | C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)CO)C)C)C(C)(C)C)(C)C | C32H52O3Si
reactant | methyl glycolate | 81.89 mmol, 6.5 mL | C(CO)(=O)OC | C3H6O3
solvent | PhCH3 | 10 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-2-methyl-benzyloxy]-acetic acid methyl ester | 1.64 nmol, 0.96 g, 40% | COC(COCC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C)=O | C35H56O5Si
